US06638929B2
Methyl 3-{[(E)-(dimethylamino)methylidene]amino}-7-methoxy-2-naphthoate
A suspension of 1.2 g (5.2 mmol) of methyl 3-amino-7-methoxy-2-naphthoate in 30 mL of dimethylformamide dimethylacetal is refluxed for 2.5 hours. The mixture is cooled to room temperature. The resulting precipitate is collected by filtration and washed with ether. After drying in vacuo, this yields 1.28 g (85.9%) of methyl 3-{[(E)-(dimethylamino)methylidene]amino}-7-methoxy-2-naphthoate as a light yellow solid, mp 160-162° C.

reactant | methyl 3-amino-7-methoxy-2-naphthoate | 5.2 mmol, 1.2 g | NC=1C(=CC2=CC(=CC=C2C1)OC)C(=O)OC | C13H13NO3
reactant | dimethylformamide dimethylacetal | 30 mL | COC(N(C)C)OC | C5H13NO2
product | Methyl 3-{[(E)-(dimethylamino)methylidene]amino}-7-methoxy-2-naphthoate | CN(C)\C=N\C=1C(=CC2=CC(=CC=C2C1)OC)C(=O)OC | C16H18N2O3
